US05654307
Reaction of 4-chloropyrido[3,2-d]pyrimidine (prepared as described in a previous experimental) with 3-bromoaniline in propan-2-ol containing a trace of conc. HCl at 50° C. for 30 min, followed by chromatography of the product on silica gel, gives 4-(3-bromophenyl) aminopyrido[3,2-d]pyrimidine (87% yield). 1H NMR (CDCl3) δ 9.19 (1H, brs), 8.83 (1H, s), 8.80 (1H, dd, J=4.3, 1.5 Hz), 8.29 (1H, brs), 8.19 (1H, dd, J=8.5, 1.5 Hz), 7.83 (1H, m), 7.76 (1H, dd, J=8.5, 4.3 Hz), 7.29-7.27 (2H, m).

reactant | 4-chloropyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC=N2 | C7H4ClN3
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | HCl | Cl | ClH
solvent | propan-2-ol | CC(C)O | C3H8O
product | 4-(3-bromophenyl) aminopyrido[3,2-d]pyrimidine | 87% yield | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=CC=N2 | C13H9BrN4
